US05728835
4-Nitro-N-(2,5-dimethoxyphenyl)benzamide
Using 2,5-dimethoxyaniline (2.53 g, 16.5 mmol) and 4-nitrobenzoic acid (2.51 g, 15.0 mmol), the procedure of Reference Example 16 was repeated to obtain 3.50 g (77.2%) of the title compound in the form of orange needle crystals.

reactant | 2,5-dimethoxyaniline | 16.5 mmol, 2.53 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | 4-nitrobenzoic acid | 15.0 mmol, 2.51 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(2,5-dimethoxyphenyl)benzamide | 3.50 g, 77.2% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=C(C=CC(=C2)OC)OC)C=C1 | C15H14N2O5
